* Z:\Users\aviatorblue\Documents\Senior Project\Electrical_Design\Amplifier_Design\amplifier_setup_rev2.asc
R1 N011 N013 10k
R2 N012 N011 10k
R3 N006 N012 5k
R4 N007 N006 10k
R5 N009 N007 5k
R6 N010 N009 10k
R7 N008 N010 10k
R8 Vac N008 10k
V1 N013 0 PWL file=sawtooth_current_01.txt.txt
V2 Vdd 0 17
V3 0 Vss 17
XU5 0 5V Vdd LT1085-5
R_Arduino 5V 0 10Meg
XU6 N003 Vdc Vdd LT1086
R10 N003 Vss 2.6k
R11 Vdc N003 1.5k
R13 Vout N005 300
C1 N005 0 15.51n
XU1 0 N011 Vdd Vss N012 LT1006
XU2 0 N006 Vdd Vss N007 LT1006
XU3 0 N009 Vdd Vss N010 LT1006
XU4 0 N008 Vdd Vss Vac LT1006
XU7 Vdc N001 Vdd Vss N001 LT1006
XU8 Vac N004 Vdd Vss N004 LT1006
XU9 0 N002 Vdd Vss Vout LT1006
R9 N002 N001 100k
R12 N002 N004 100k
R14 Vout N002 100k
.tran 0 0.4 0
.lib LT1083.lib
.lib LTC.lib
.backanno
.end
