* Z:\Users\aviatorblue\Documents\Senior Project\Electrical_Design\Amplifier_Design\amplifier_setup_rev2.asc
R1 N009 N012 100k
R2 N010 N009 10k
R3 N006 N010 3.3k
R4 N007 N006 10k
R5 N008 N007 3.3k
R6 Vac N008 10k
V1 N011 N013 PWL file=DAC_signal.txt
V2 Vdd 0 17
V3 0 Vss 17
XU5 0 5V Vdd LT1085-5
R_Arduino 5V 0 10Meg
XU6 N003 Vdc Vdd LT1086
R10 N003 Vss 2.6k
R11 Vdc N003 1.5k
R13 Vout N005 300
C1 N005 0 15.51n
XU1 0 N009 Vdd Vss N010 LT1006
XU2 0 N006 Vdd Vss N007 LT1006
XU3 0 N008 Vdd Vss Vac LT1006
XU7 Vdc N001 Vdd Vss N001 LT1006
XU8 Vac N004 Vdd Vss N004 LT1006
XU9 0 N002 Vdd Vss Vout LT1006
R9 N002 N001 1Meg
R12 N002 N004 1Meg
R14 Vout N002 1Meg
C2 N012 N011 100µ
C3 N008 0 10p
C4 N009 0 10p
C5 N006 0 10p
C9 N002 0 0.5p
V4 N013 0 V
C6 0 Vss 1µ
C7 Vdd 0 1µ
C8 5V 0 1µ
C10 Vdc Vss 1µ
.tran 0 4 3
* PZT
* Fg = 159.15kHz
* Fg = 159.15kHz
* Fg = 159.15kHz
.lib LT1083.lib
.lib LTC.lib
.backanno
.end
